US07091228B2
N-(4-Bromophenyl)-N-(5-methyl-1,3-benzoxazol-2-yl)amine
In a 250-mL round-bottom flask, 1-bromo-4-isothiocyanatobenzene (4.28 g, 20 mmol) and 2-amino-4-methyl-phenol (2.46 g, 20 mmol) were stirred in 120 mL ethanol at rt overnight. The formation of N-(4-bromophenyl)-N′-(2-hydroxy-5-methylphenyl)thiourea was confirmed by LC-MS. To the mixture, 1.5 eq. 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (EDCI) was added, and the reaction was stirred at rt for another 2 h. The reaction mixture was then heated at reflux for 6 h. The mixture was cooled to rt and the solvent was removed under reduced pressure. The solid was dissolved in EtOAc and washed with 2 N aqueous HCl and H2O. The organic layer was dried (MgSO4) and the solvent was removed under reduced pressure. The solid obtained was ultrasonicated in 30 mL ether and filtered to give the desired compound (3.64 g, 60%). 1H NMR (400 MHz, DMSO-d6) δ 10.70 (s, 1 H), 7.70 (m, 2 H), 7.55 (m, 2 H), 7.35 (d, 1 H), 7.25 (s, 1 H), 6.95 (d, 1 H), 2.40 (s, 3 H). LC-MS m/z 303.3 (MH+), ret. time 3.46 min.

reactant | 1-bromo-4-isothiocyanatobenzene | 20 mmol, 4.28 g | BrC1=CC=C(C=C1)N=C=S | C7H4BrNS
reactant | 2-amino-4-methyl-phenol | 20 mmol, 2.46 g | NC1=C(C=CC(=C1)C)O | C7H9NO
reactant | N-(4-bromophenyl)-N′-(2-hydroxy-5-methylphenyl)thiourea | BrC1=CC=C(C=C1)NC(=S)NC1=C(C=CC(=C1)C)O | C14H13BrN2OS
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | Cl.CN(CCCN=C=NCC)C
solvent | ethanol | 120 mL | C(C)O | C2H6O
solvent | ether | 30 mL | CCOCC | C4H10O
product | N-(4-Bromophenyl)-N-(5-methyl-1,3-benzoxazol-2-yl)amine | 3.64 g, 60% | BrC1=CC=C(C=C1)NC=1OC2=C(N1)C=C(C=C2)C | C14H11BrN2O
